US05041462
Preparation of 2,6-bis(hydroxyacetylamino)benzonitrile:
To a solution of 2,6-bis(acetoxyacetylamino)benzonitrile (6.7 g) in methanol (700 ml) is added dropwise 28% aqueous ammonia (10 ml). The mixture is stirred at room temperature for 1 hour, and thereafter, the solvent is distilled off under reduced pressure. The resulting crude crystals are recrystallized from ethanol to give the title compound (3.8 g) having the following physical properties.

reactant | 2,6-bis(acetoxyacetylamino)benzonitrile | 6.7 g | C(C)(=O)OCC(=O)NC1=C(C#N)C(=CC=C1)NC(COC(C)=O)=O | C15H15N3O6
reactant | ammonia | 10 ml | N | H3N
solvent | methanol | 700 ml | CO | CH4O
product | 2,6-bis(hydroxyacetylamino)benzonitrile | 3.8 g | OCC(=O)NC1=C(C#N)C(=CC=C1)NC(CO)=O | C11H11N3O4
